US08580813B2
Step1: 1-Phenyl-1H-pyrrolo[3,2-c]pyridine
To a mixture of 5-azaindole (780 mg, 6.60 mmol), copper(I) iodide (25.1 mg, 132 μmol), (1S,2S)-(+)-1,2-diaminocyclohexane (162 μl, 1.35 mmol) and potassium phosphate (2.52 g, 11.9 mmol) in dioxane (24 ml) was added iodobenzene (739 μl, 6.60 mmol). The reaction mixture was stirred overnight at 110° C. The mixture was then cooled to room temperature, filtered through silica gel, and the silica gel washed with EA. The combined filtrates was evaporated under reduced pressure, and the resulting solid was purified by preparative HPLC. The fractions containing the title compound were combined and lyophilized overnight. Yield: 1.28 g.

reactant | 5-azaindole | 6.60 mmol, 780 mg | N1C=CC2=CN=CC=C12 | C7H6N2
reactant | (1S,2S)-(+)-1,2-diaminocyclohexane | 1.35 mmol, 162 μl | N[C@@H]1[C@H](CCCC1)N | C6H14N2
reactant | potassium phosphate | 11.9 mmol, 2.52 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | iodobenzene | 6.60 mmol, 739 μl | IC1=CC=CC=C1 | C6H5I
solvent | dioxane | 24 ml | O1CCOCC1 | C4H8O2
catalyst | copper(I) iodide | 132 μmol, 25.1 mg | [Cu]I
product | 1-Phenyl-1H-pyrrolo[3,2-c]pyridine | C1(=CC=CC=C1)N1C=CC=2C=NC=CC21 | C13H10N2
